US07977477B2
4-{2-[4-(2,6-Difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazol-5-yloxymethyl}-piperidine-1-carboxylic acid tert-butyl ester (0.024 g, 0.043 mmol) (prepared in a manner analogous to Example 130) was treated with 1:1 TFA:DCM (2 ml) for 20 min. The solution was reduced in vacuo and azeotroped with toluene (×3). Purification by preparative LC/MS gave 2,6-difluoro-N-{3-[5-(piperidin-4-ylmethoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-benzamide as a white solid (8 mg, 41%). (LC/MS: Rt 1.99, [M+H]+ 453.06).

reactant | 4-{2-[4-(2,6-Difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazol-5-yloxymethyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.043 mmol, 0.024 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC2=C(NC(=N2)C2=NNC=C2NC(C2=C(C=CC=C2F)F)=O)C=C1 | C28H30F2N6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 2,6-difluoro-N-{3-[5-(piperidin-4-ylmethoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-benzamide | 8 mg, 41% | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)OCC3CCNCC3)C(=CC=C1)F | C23H22F2N6O2
